US08202873B2
Dissolve 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride (0.500 g, 1.84 mmol) in 1,2-dichloroethane (19 mL). Add 5-methyl-1-phenyl-1H-pyrazole-4-carbaldehyde (0.396 g, 2.13 mmol), triethylamine (594 μL, 4.26 mmol), sodium triacetoxyborohydride (0.677 g, 3.20 mmol) and acetic acid (200 μL) and stir at room temperature for 18 hr. Add aq. saturated sodium bicarbonate and extract four times with DCM. Dry combined organic layers (magnesium sulfate), filter, concentrate, and purify (silica gel chromatography, eluting with 0:100 to 100:0 ethyl acetate:hexanes) to give 3′-chloro-4-(5-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (597 mg, 88%) MS (ES): m/z=369[M+H]+.

reactant | 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride | 1.84 mmol, 0.500 g | Cl.Cl.ClC=1C(=NC=CN1)N1CCNCC1
reactant | 5-methyl-1-phenyl-1H-pyrazole-4-carbaldehyde | 2.13 mmol, 0.396 g | CC1=C(C=NN1C1=CC=CC=C1)C=O | C11H10N2O
reactant | triethylamine | 4.26 mmol, 594 μL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 3.20 mmol, 0.677 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 19 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | 200 μL | C(C)(=O)O | C2H4O2
product | 3′-chloro-4-(5-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 597 mg, 88% | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C1=CC=CC=C1 | C19H21ClN6
